US07855297B2
To a solution of 5-benzyloxy-N-(4-isopropylphenyl)-N-[(6-phenoxypyridin-3-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.42 g) in methanol (3 mL) were added 10% palladium carbon (0.05 g) and ammonium formate (0.23 g), and the mixture was stirred at room temperature for one day. The reaction mixture was filtrated, and the solvent was evaporated. The residue was purified by silica gel column chromatography to give 5-hydroxy-N-(4-isopropylphenyl)-N-[(6-phenoxypyridin-3-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide. This compound was dissolved in ethyl acetate, and 4 mol/L-hydrochloric acid/dioxane (0.20 mL) was added. The precipitated solid was collected by filtration to give 5-hydroxy-N-(4-isopropylphenyl)-N-[(6-phenoxypyridin-3-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.11 g).

reactant | 5-benzyloxy-N-(4-isopropylphenyl)-N-[(6-phenoxypyridin-3-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.42 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NC(=CC1)OC1=CC=CC=C1)C1=CC=C(C=C1)C(C)C | C39H38N2O3
reactant | ammonium formate | 0.23 g | C(=O)[O-].[NH4+]
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium carbon | 0.05 g | [C].[Pd]
product | 5-hydroxy-N-(4-isopropylphenyl)-N-[(6-phenoxypyridin-3-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NC(=CC1)OC1=CC=CC=C1)C1=CC=C(C=C1)C(C)C | C32H32N2O3
